Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
L lateral breast pain, low grade fevers, and breast erythema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with PMH notable for HTN and IBS who 
underwent breast reduction mammoplasty (Dr. ___, ___ and 
presents with several days of L lateral breast pain, low grade 
fevers, and breast erythema. Her symptoms initially began 
___ and have been progressively worsening. Patient
presented to outpatient clinic earlier today at which point 
about 30 cc malodorous fluid was drained from her L lateral 
incision, and therefore was sent to ___ for further 
evaluation. Patient reports low grade fevers at home to 100.5. 
She has been taking Tylenol at home. Ultrasound ___ the ED shows 
a fluid collection measuring 5.6 x 1.9 x 3.4 cm directly 
underlying her L surgical
incision. 
 
Past Medical History:
POLYCYSTIC OVARIES      
HTN
IBS                                        
.
PSH:
Breast reduction mammoplasty ___, Dr. ___    
CCY
Tonsilectomy                

 
Social History:
Non-smoker. Patient is an ___.
 
Physical Exam:
Gen: NAD, A&Ox3, lying on stretcher, nontoxic appearing
CV: RRR
R: Breathing comfortably on room air. 
Breasts: Bilateral breasts s/p reduction mammoplasty
L breast with area of erythema measuring about 4 cm ___ diameter
overlying L lateral incision with palpable underlying fluid
collection, small amount of serous fluid expressible manually
through incision, (+) tender to palpate ___ area of concern
R breast incisions c/d/I with small area of superficial incision
dehiscence laterally, no palpable fluid collection or 
tenderness,
minimal surrounding erythema focally 

 
Pertinent Results:
ADMISSION LABS:
___ 12:10PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 12:10PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 12:10PM URINE  RBC-1 WBC-<1 BACTERIA-FEW* YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 12:10PM URINE  AMORPH-RARE*
___ 12:10PM URINE  MUCOUS-RARE*
___ 10:46AM   LACTATE-1.0
___ 10:42AM   GLUCOSE-97 UREA N-8 CREAT-0.5 SODIUM-139 
POTASSIUM-4.9 CHLORIDE-103 TOTAL CO2-22 ANION GAP-14
___ 10:42AM   estGFR-Using this
___ 10:42AM   WBC-15.0* RBC-3.75* HGB-12.3 HCT-37.6 
MCV-100* MCH-32.8* MCHC-32.7 RDW-11.9 RDWSD-43.6
___ 10:42AM   NEUTS-81.7* LYMPHS-8.9* MONOS-7.6 EOS-0.9* 
BASOS-0.5 IM ___ AbsNeut-12.26* AbsLymp-1.33 AbsMono-1.14* 
AbsEos-0.13 AbsBaso-0.07
___ 10:42AM   PLT COUNT-379
.
DISCHARGE LABS:
___ 06:20AM BLOOD WBC-9.6 RBC-3.29* Hgb-10.6* Hct-31.5* 
MCV-96 MCH-32.2* MCHC-33.7 RDW-11.6 RDWSD-40.3 Plt ___
___ 06:20AM BLOOD ___ PTT-29.5 ___
___ 06:20AM BLOOD Glucose-113* UreaN-7 Creat-0.5 Na-135 
K-4.6 Cl-98 HCO3-27 AnGap-10
.
IMAGING:
Radiology Report US BREAST UNILATERAL LIMITED LEFT Study Date of 
___:07 AM 
IMPRESSION:  
5.6 x 1.9 x 3.4 cm fluid collection directly underlying the 
incision and area of erythema ___ the left breast at 5 o'clock 15 
cm from the nipple.  This could reflect a hematoma or seroma 
with or without superinfection, or abscess. 
.
MICROBIOLOGY:
___ 1:45 pm SWAB

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ CLUSTERS. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

 
Brief Hospital Course:
The patient was seen ___ the ED on ___ for complaints of L 
lateral breast pain,
low grade fevers, and left breast erythema.  An ultrasound 
revealed a fluid collection.  She was admitted overnight for 
observation after a bedside incision and drainage of some ample 
creamy drainage from left breast wound.  The patient was 
admitted to the plastic surgery service on ___ for IV 
antibiotics and dressing changes to left breast wound\. 
 .
 Neuro: The patient received IV pain medications with good 
effect and adequate pain control for bedside incision and 
drainage. The patient was given oral pain medications for pain 
control. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: The patient was given IV fluids when necessary. She ate 
a light regular diet although had periods of nausea and vomiting 
that were effectively treated with antiemetics. She was also 
started on a bowel regimen to encourage bowel movement. Intake 
and output were closely monitored. 
 .
 ID: The patient was started on IV vancomycin and ceftriaxone. 
Cultures eventually revealed +MRSA and patient was discharged 
home on PO DS Bactrim.  The patient's temperature was closely 
watched for signs of infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
 .
 At the time of discharge on hospital day #3, the patient was 
doing well, afebrile with stable vital signs, tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  Left breast wound was clean, left breast 
erythema was receding.  A wet to dry dressing was ___ place.
 
Medications on Admission:
Lisinopril 10 mg PO DAILY 
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
2.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: will d/c oxy
RX *hydromorphone 2 mg ___ tablet(s) by mouth every ___ hours 
Disp #*30 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0 
4.  LORazepam 0.5 mg PO Q6H:PRN nausea, insomnia, anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth every 6 hours Disp #*20 
Tablet Refills:*0 
5.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0 
6.  Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 10 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*40 Tablet Refills:*0 
7.  Acetaminophen 650 mg PO Q6H  
8.  Lisinopril 10 mg PO DAILY On HOLD 
ON HOLD.  Interacts with Bactrim (may elevate K+ level)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left breast cellulitis/wound infection.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted on ___ for observation/treatment of a 
left breast cellulitis/wound infection.  Please follow these 
discharge instructions:
 .
 -Continue your left breast wound dressing changes at least once 
a day, preferably twice a day.
 -Continue to monitor your left breast area for continued 
improvement.  If the redness, swelling and/or drainage increase, 
please call Dr. ___ office to report this.
 -Should you have fevers and chills, please call the office 
immediately to report.
 -Continue your antibiotics until they are finished.  
 -You may consider eating a probiotic yogurt daily to replace 
the 'good' bacteria ___ your intestinal tract.  If you cannot 
tolerate yogurt then you may buy 'acidophilus' over the counter 
as a supplement choice.  Acidophilus is a 'friendly' bacteria 
for your gut.
 -If you start to experience excessive diarrhea, please call the 
doctor's office to report this.
 -Do not overexert yourself and no strenuous exercise for now.
 -You may take either tylenol or advil (ibuprofen) for your 
discomfort.  Take as directed.
 
Followup Instructions:
___